US04659369
3-(1,3-Dioxolan-2-yl)thiophene-2-sulfonamide
To 5 ml of liquified ammonia gas dissolved in 50 ml of tetrahydrofuran was added dropwise with stirring and cooling 12.7 g of 3-(1,3-dioxolan-2-yl)thiophene-2-sulfonyl chloride. After stirring overnight at ambient temperature, the tetrahydrofuran was removed in vacuo, water was added to the residue and the mixture was extracted twice with 75 ml of methylene chloride. After washing the combined methylene chloride extracts with water, drying over magnesium sulfate, filtering off the drying agent and evaporation of the methylene chloride, an oily solid residue was obtained. This was chromatographed through silica gel using 1:1 ethyl acetate-hexanes as eluant (Rf 0.35). Evaporation of the solvent mixture yielded 2.2 g of the desired product, as a waxy solid. Infrared absorption spectra showed peaks at 3360, 3260, 1340 and 1140 cm-1, consistent for a primary sulfonamide. Mass spectrum analysis: calc. 235, found 234 (Mass-1H).

reactant | ammonia | 5 ml | N | H3N
reactant | 3-(1,3-dioxolan-2-yl)thiophene-2-sulfonyl chloride | 12.7 g | O1C(OCC1)C1=C(SC=C1)S(=O)(=O)Cl | C7H7ClO4S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(1,3-Dioxolan-2-yl)thiophene-2-sulfonamide | 2.2 g | O1C(OCC1)C1=C(SC=C1)S(=O)(=O)N | C7H9NO4S2
